US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-propyl-3-hydroxybenzylamine
To 12.5 ml of tetrahydrofuran were added 2.00 g (8.34 mmol) of (E)-N-(3-chloro-2-propenyl)-N-propyl-3-hydroxybenzylamine, 79.4 mg (0.417 mmol) of copper (I) iodide, 37.4 mg (0.167 mmol) of palladium acetate and 87.5 mg (0.334 mmol) of triphenylphosphine, and further, 1.65 ml (16.7 mmol) of n-butylamine and 1.23 ml (10.0 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 20 hours at room temperature, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=19/1 9/1). The desired fractions were put together and concentrated under reduced pressure to oil. The oil was cooled to crystallize and the crystals were suspended in cooled n-hexane. The crystals were collected by filtration and then dried to obtain 2.13 g (yield: 89%) of the above identified compound as slightly yellow crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)-N-propyl-3-hydroxybenzylamine | 8.34 mmol, 2.00 g | Cl/C=C/CN(CCC)CC1=CC(=CC=C1)O | C13H18ClNO
reactant | triphenylphosphine | 0.334 mmol, 87.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 16.7 mmol, 1.65 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 10.0 mmol, 1.23 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 0.417 mmol, 79.4 mg | [Cu]I
catalyst | palladium acetate | 0.167 mmol, 37.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 12.5 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-propyl-3-hydroxybenzylamine | yield: 89% | CC(C#C/C=C/CN(CCC)CC1=CC(=CC=C1)O)(C)C | C19H27NO
